US06159901
Production of 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (1-phenylethylidene) hydrazide (compound No. I-35)
4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (0.30 g, 0.00092 mol) was mixed with acetophenone (0.11 ml, 0.00092×1.0 mol) and p-toluene sulfonic acid monohydrate (0.06 g, 0.00092×0.34 mol), and further with. benzene (about 20 ml). The obtained mixture was refluxed for about 3 hours so as to pass through a molecular sieve 4A. The obtained reaction solution was distributed in ethyl acetate-water, and the organic phase separated from the solution was washed with saturated brine, dried with anhydrous sodium sulfate and then concentrated. The obtained concentrated solution was purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | 0.00092 mol, 0.30 g | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN | C14H12F3N3O3
reactant | acetophenone | 1.0 mol, 0.11 ml | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | p-toluene sulfonic acid monohydrate | 0.34 mol, 0.06 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | benzene | about 20 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (1-phenylethylidene) hydrazide | C1(=CC=CC=C1)C(C)=NNC(C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F)=O | C22H18F3N3O3
